US08048894B2
Method 4. Preparation of 4-(4-Hydroxy-6-iodo-1-methyl-2-oxo-1,2-dihydro-1,8-naphthyridin-3-yl)-4-oxobutanoic acid
Methyl 4-(4-hydroxy-6-iodo-1-methyl-2-oxo-1,2-dihydro-1,8-naphthyridin-3-yl)-4-oxobutanoate. A mixture of 6-iodo-1-methyl-2-oxo-1,2-dihydro-1,8-naphthyridin-4-yl methyl succinate (0.096 g, 0.23 mmol) and sodium acetate (0.019 g, 0.23 mmol) was heated at 140° C. for 5 minutes. The reaction was cooled to room temperature and the solids rinsed with DCM. The filtrate was purified by flash chromatography using EtOAc/hexane to afford the title compound in 27% yield. 1H-NMR (300 MHz, CDCl3) δ ppm 8.85 (1H, d, J=2.3 Hz), 8.71 (1H, d, J=2.2 Hz), 3.72 (3H, s), 3.71 (3H, s), 3.65 (2H, t, J=6.3 Hz), 2.73 (2H, t, J=6.3 Hz). MS m/z: 417 (M+).

reactant | Methyl 4-(4-hydroxy-6-iodo-1-methyl-2-oxo-1,2-dihydro-1,8-naphthyridin-3-yl)-4-oxobutanoate | OC1=C(C(N(C2=NC=C(C=C12)I)C)=O)C(CCC(=O)OC)=O | C14H13IN2O5
reactant | 6-iodo-1-methyl-2-oxo-1,2-dihydro-1,8-naphthyridin-4-yl methyl succinate | 0.23 mmol, 0.096 g | C(CCC(=O)OC)(=O)OC1=CC(N(C2=NC=C(C=C12)I)C)=O | C14H13IN2O5
reactant | sodium acetate | 0.23 mmol, 0.019 g | C(C)(=O)[O-].[Na+]
product | 4-(4-Hydroxy-6-iodo-1-methyl-2-oxo-1,2-dihydro-1,8-naphthyridin-3-yl)-4-oxobutanoic acid | 27% yield | OC1=C(C(N(C2=NC=C(C=C12)I)C)=O)C(CCC(=O)O)=O | C13H11IN2O5
